* Frozen netlist snapshot for record 20260817-121555-227c770
* source     : sim/cdac-bit-settling/testbench/tb_cdac_bit_settling.spice
* sha256     : f52cbc6ee096faa17e73f3137d6f1a689eddd2773b4ef10fedb45d56ceeea412
* This is a verbatim copy taken at record time. Do not edit.
* tb_cdac_bit_settling -- per-bit top-plate settling for the MCS/Vcm CDAC
* switching scheme chosen in DR-0011 (spec/decision-records/).
*
* Netlist FRAGMENT. The harness supplies the models, the corner .lib
* sections, .temp, the .control block and .end. Parameters provided by the
* harness: vdd_val, vdd_nom, temp_c, plus the PDK-variant-bound mim_cap_*
* wrapper subckts.
*
* QUESTION THIS ANSWERS (feeds spec/cdac-sizing-memo.md Sec 5.3, #12, and
* cross-checks DR-0002): for EACH bit trial the chosen scheme performs, does
* the CDAC top-plate node (the comparator's input) settle to within 0.5 LSB
* of its final value inside one bit cycle, at every PVT corner? And is the
* bit the settling-time derivation predicts to be worst actually the worst?
*
* WHAT THE ARRAY DOES, AND WHICH TRIALS EXIST. The chosen scheme (DR-0011)
* resolves bit 1 (the MSB) directly from the sampled charge with NO array
* switching at all -- top-plate sampling's "free" first decision, which has
* no settling question. The remaining N-1 = 9 bits are resolved by a
* binary-weighted sub-array of 2^(N-1) = 512 unit-capacitor positions per
* side (511 real weights 2^8..2^0 = 256..1, plus one terminating unit fixed
* to V_cm). At the trial for weight w, a block of w unit caps steps by
* V_ref/2 while the remaining (512-w) units of that side sit at fixed
* bottom-plate voltages and merely load the top-plate node. Modelling the
* top plate as the two-capacitor charge divider C_step = w*C_u (driven
* through the bottom-plate switch) and C_fixed = (512-w)*C_u (static), the
* settling time constant for a FIXED switch R_on is
*
*     tau(w) = R_on * Ceq(w),   Ceq(w) = C_step*C_fixed / (C_step+C_fixed)
*            = R_on * w*(512-w)*C_u / 512
*
* w*(512-w) is maximised at w = 256 -- exactly the sub-array's own MSB, the
* largest weight this array ever switches. The DERIVATION therefore predicts
* w = 256 is the slowest trial and every other trial is faster. This
* testbench does not take that on faith: it instantiates FOUR of the nine
* trials, spanning the whole weight range (w = 1, 16, 64, 256, i.e. the LSB
* trial, two intermediate trials, and the predicted-worst sub-array MSB),
* and measures each independently at every PVT point. The `checks` in
* tb.json then assert BOTH that every trial meets the 0.5 LSB bit-cycle
* budget AND that the residual-lag ordering is monotonic in w
* (w=256 laggiest, w=1 fastest), which is the derivation's own prediction
* stated as a falsifiable measurement. If Ceq(w) were wrong -- e.g. if the
* real load were the whole per-side array rather than the charge divider --
* the ordering assertions would fail rather than pass silently.
*
* The four weights are geometrically spaced (1, 16, 64, 256) rather than
* every one of the nine, because the claim under test is a MONOTONIC bound,
* not nine independent numbers: four points spanning 1..256 pin the trend,
* and the derivation supplies the interpolation between them. The five
* omitted weights (2, 4, 8, 32, 128) all lie strictly inside the measured
* range and inside the measured envelope.
*
* CIRCUIT. Each branch is one bit trial, driven by real gf180mcu switch
* devices (T-gates, same sizing as sim/device-switch-ron/ and
* sim/device-switch-charge-injection/: NMOS W=10um, PMOS W=20um, both
* L=0.28um) so switch R_on carries its own real MOS-corner sensitivity.
* C_step and C_fixed are real mim_cap_2f0 devices (the 2.0 fF/um^2 MiM
* flavour DR-0011 / the sizing memo select), sized BY AREA to the
* w*C_u / (512-w)*C_u weights at the C_u = 35.6528 fF chosen in
* spec/cdac-sizing-memo.md Sec 4 (DR-0019's resize, superseding the
* original 17.24 fF / 2.7136 um unit), via the measured density law in
* sim/device-characterization-report.md Sec 1.2
* (C(s) = 1.99*s^2 + 0.9532*s fF for a square side s um):
*
*     w      C_step       s_step      C_fixed       s_fixed     ideal step
*     1     35.65 fF    4.0000 um  18218.58 fF   95.4429 um     3.2227 mV
*    16    570.44 fF   16.6931 um  17683.79 fF   94.0281 um    51.5625 mV
*    64   2281.78 fF   33.6232 um  15972.45 fF   89.3508 um   206.2500 mV
*   256   9127.12 fF   67.4846 um   9127.12 fF   67.4846 um   825.0000 mV
*
* so cap-corner sensitivity (mim_ff/ss) is real too. Use the "full" corner
* set for this reason: settling depends on BOTH device families, and no
* subset of the mos/cdac corner sets alone exercises both.
*
* The ideal-step column is unchanged by DR-0019's resize: the step is
* V_ref/2 * w/512, a pure capacitance RATIO, so it depends on the array's
* weighting and not on C_u. What the resize does move -- linearly, by the
* 2.068x unit-cap ratio -- is Ceq(w), and therefore tau(w). That is exactly
* what this campaign re-measures, and it is why the record taken at the
* original 17.24 fF unit (20260731-231537-1ee5578) cannot simply be
* re-labelled at the new unit.
*
* Note the w=1 row: the LSB trial moves the top plate by exactly
* V_ref/1024 = 1 LSB, so its absolute 0.5 LSB settling bound is a
* meaningful check and not a formality.
*
* Before t=0 the "release" switch connects the bottom plate to a fixed Vcm
* source (the sampled state at the start of the SAR search) and the
* "engage" switch to the target rail is open. At t ~ 1 ns both transition
* (200 ps edge; 1 ns is the load-bearing edge assumption, matching
* sim/device-switch-charge-injection/'s convention) and the bottom plate is
* driven toward its new rail through the T-gate's R_on. The top-plate node
* vtop_* is what a real CDAC's comparator senses.
*
* DIRECTIONS. The w=256 trial is instantiated in BOTH directions -- UP
* (bottom plate Vcm -> V_ref, a "1" decision on this side) and DOWN
* (Vcm -> GND, a "0" decision) -- because the NMOS/PMOS T-gate legs are not
* symmetric (different W, different body-effect direction near each rail),
* so the two directions are not guaranteed to settle identically. The three
* smaller weights are instantiated UP only: they are bounded above by the
* w=256 result in either direction, which is exactly what the ordering
* checks establish.
*
* MEASUREMENT. Per branch: vpre = vtop just before the edge; vsettled =
* vtop at 500 ns, >>50 of any time constant this circuit can produce
* (worst measured switch R_on is 570 ohm, sim/device-switch-ron/; the
* largest Ceq this array produces is 128*C_u = 4.564 pF at DR-0019's
* 35.6528 fF unit, so tau is 2.6 ns at that R_on, and still sub-30-ns even
* at a hypothetical 10x R_on -- the 500 ns read is >17 tau even then).
* This margin statement is the one line the DR-0019 resize moves: at the
* original 17.24 fF unit the same 10x-R_on bound was sub-15-ns. The
* per-bit-cycle error is vtop at (edge start + budget)
* minus vsettled: budget = 62.5 ns at the ratified 1 MS/s / M=16 clocking
* convention (spec/prior-art-survey.md Sec 1.4), and 31.25 ns for the
* 2 MS/s stretch (informational only -- no `checks` bound is placed on it;
* DR-0002 already flags the 2 MS/s stretch as unresolved and this testbench
* is not meant to resolve it, only to report the number). vearly = vtop at
* a common 1.5 ns, i.e. 300 ps after the driving edge completes and still
* inside the transient for the larger weights -- the residual-lag fraction
* (vearly-vsettled)/(vsettled-vpre) computed from it is what carries the
* per-bit ordering claim and the corner sensitivity.
*
* 0.5 LSB is evaluated against the tightest (single-ended) LSB,
* 3.3 V / 1024 = 3.2227 mV, i.e. a 1.6113 mV bound -- the illustrative value
* used throughout sim/device-characterization-report.md pending the ratified
* spec (#1). Differential mode's LSB is 2x looser (DR-0002), so a
* single-ended pass is conservative for differential too.

vsup vdd 0 dc {vdd_val}
vvcm nvcm 0 dc {vdd_val/2}

* ---- shared bit-trial clock: "hi" gates the release (Vcm) switches' NMOS
*      and the engage (rail) switches' PMOS; "lo" is its exact complement.
*      Held before t=1n, 200ps transition, held after -- one bit trial only.
vclk_hi nclk_hi 0 pwl(0 {vdd_val} 0.998n {vdd_val} 1.2n 0 500n 0)
vclk_lo nclk_lo 0 pwl(0 0 0.998n 0 1.2n {vdd_val} 500n {vdd_val})

* ===========================================================================
* w = 1 (the sub-array LSB trial), UP: bottom plate Vcm -> V_ref.
* ---- release switch (T-gate): nvcm <-> vbot_w1, ON before the edge.
Xrel_w1_n nvcm nclk_hi vbot_w1 0   nfet_03v3 w=10u l=0.28u
Xrel_w1_p nvcm nclk_lo vbot_w1 vdd pfet_03v3 w=20u l=0.28u
* ---- engage switch (T-gate): vdd <-> vbot_w1, ON after the edge.
Xeng_w1_n vdd  nclk_lo vbot_w1 0   nfet_03v3 w=10u l=0.28u
Xeng_w1_p vdd  nclk_hi vbot_w1 vdd pfet_03v3 w=20u l=0.28u
Xcstep_w1  vtop_w1 vbot_w1 mim_cap_2f0 c_width=4.0000u  c_length=4.0000u
Xcfixed_w1 vtop_w1 nvcm    mim_cap_2f0 c_width=95.4429u c_length=95.4429u
* ---- DC return path: vtop_* has no resistive path otherwise (both its
*      capacitors are AC-coupled), so its DC operating point is singular
*      without this -- the same fix sim/device-cdac-cap/ needed. 1 T ohm is
*      >8 orders of magnitude above any impedance active during the 500 ns
*      transient window, so it does not affect the settling being measured.
Rdc_w1 vtop_w1 nvcm 1t

* ===========================================================================
* w = 16, UP.
Xrel_w16_n nvcm nclk_hi vbot_w16 0   nfet_03v3 w=10u l=0.28u
Xrel_w16_p nvcm nclk_lo vbot_w16 vdd pfet_03v3 w=20u l=0.28u
Xeng_w16_n vdd  nclk_lo vbot_w16 0   nfet_03v3 w=10u l=0.28u
Xeng_w16_p vdd  nclk_hi vbot_w16 vdd pfet_03v3 w=20u l=0.28u
Xcstep_w16  vtop_w16 vbot_w16 mim_cap_2f0 c_width=16.6931u c_length=16.6931u
Xcfixed_w16 vtop_w16 nvcm     mim_cap_2f0 c_width=94.0281u c_length=94.0281u
Rdc_w16 vtop_w16 nvcm 1t

* ===========================================================================
* w = 64, UP.
Xrel_w64_n nvcm nclk_hi vbot_w64 0   nfet_03v3 w=10u l=0.28u
Xrel_w64_p nvcm nclk_lo vbot_w64 vdd pfet_03v3 w=20u l=0.28u
Xeng_w64_n vdd  nclk_lo vbot_w64 0   nfet_03v3 w=10u l=0.28u
Xeng_w64_p vdd  nclk_hi vbot_w64 vdd pfet_03v3 w=20u l=0.28u
Xcstep_w64  vtop_w64 vbot_w64 mim_cap_2f0 c_width=33.6232u c_length=33.6232u
Xcfixed_w64 vtop_w64 nvcm     mim_cap_2f0 c_width=89.3508u c_length=89.3508u
Rdc_w64 vtop_w64 nvcm 1t

* ===========================================================================
* w = 256 (the sub-array's own MSB -- the derivation's predicted worst bit),
* UP: bottom plate Vcm -> V_ref.
Xrel_w256u_n nvcm nclk_hi vbot_w256u 0   nfet_03v3 w=10u l=0.28u
Xrel_w256u_p nvcm nclk_lo vbot_w256u vdd pfet_03v3 w=20u l=0.28u
Xeng_w256u_n vdd  nclk_lo vbot_w256u 0   nfet_03v3 w=10u l=0.28u
Xeng_w256u_p vdd  nclk_hi vbot_w256u vdd pfet_03v3 w=20u l=0.28u
Xcstep_w256u  vtop_w256u vbot_w256u mim_cap_2f0 c_width=67.4846u c_length=67.4846u
Xcfixed_w256u vtop_w256u nvcm       mim_cap_2f0 c_width=67.4846u c_length=67.4846u
Rdc_w256u vtop_w256u nvcm 1t

* ===========================================================================
* w = 256, DOWN: bottom plate Vcm -> GND (a "0" bit decision on this side).
*               Identical topology, mirrored target rail.
Xrel_w256d_n nvcm nclk_hi vbot_w256d 0   nfet_03v3 w=10u l=0.28u
Xrel_w256d_p nvcm nclk_lo vbot_w256d vdd pfet_03v3 w=20u l=0.28u
Xeng_w256d_n 0    nclk_lo vbot_w256d 0   nfet_03v3 w=10u l=0.28u
Xeng_w256d_p 0    nclk_hi vbot_w256d vdd pfet_03v3 w=20u l=0.28u
Xcstep_w256d  vtop_w256d vbot_w256d mim_cap_2f0 c_width=67.4846u c_length=67.4846u
Xcfixed_w256d vtop_w256d nvcm       mim_cap_2f0 c_width=67.4846u c_length=67.4846u
Rdc_w256d vtop_w256d nvcm 1t
